US05482941
Methyl 5-acetyl -2-n-propoxybenzoate
A stirred mixture of methyl 5-acetyl-2-hydroxybenzoate (10 g, 0.0515 mol), 1-iodopropane (10.5 g, 0.0618 mol), anhydrous potassium carbonate (14.2 g, 0.103 mol) and 2-butanone (200 ml) was heated under reflux for 18 hours. A further quantity of 1-iodopropane (10.5 g, 0.0618 mol) was then added and heating under reflux continued for a further 24 hours. The solvent was removed by evaporation under vacuum and the residue partitioned between water (200 ml) and ethyl acetate (200 ml). The aqueous phase was extracted with ethyl acetate (2×100 ml), then the organic solutions combined, dried (Na2SO4) and evaporated under vacuum. The residue was chromatographed on Silica gel (120 g) using a methanol in dichloromethane elution gradient (0-1%), then crystallization of the product from ethyl acetate-hexane gave the title compound as white crystals (6.85 g, 56%), m.p. 49° C. Found: C,65.76; H,6.72. C13H16O4 requires C,66.08; H,6.83%.

reactant | methyl 5-acetyl-2-hydroxybenzoate | 0.0515 mol, 10 g | C(C)(=O)C=1C=CC(=C(C(=O)OC)C1)O | C10H10O4
reactant | 1-iodopropane | 0.0618 mol, 10.5 g | ICCC | C3H7I
reactant | potassium carbonate | 0.103 mol, 14.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 0.0618 mol, 10.5 g | ICCC | C3H7I
solvent | 2-butanone | 200 ml | CC(CC)=O | C4H8O
product | Methyl 5-acetyl -2-n-propoxybenzoate | 6.85 g, 56% | C(C)(=O)C=1C=CC(=C(C(=O)OC)C1)OCCC | C13H16O4
